US04402960
At room temperature, 2.5 g of iron filings is added to a solution of 4.34 g of 4,5-bis(4-methoxyphenyl)-2-(2-nitrophenylthio)imidazole in 50 ml of glacial acetic acid and 3 ml of acetic anhydride. The mixture is stirred overnight, poured into 500 ml of water, the precipitated product is vacuum-filtered, taken up in ethyl acetate, and the solution washed with sodium bicarbonate solution. The solution is then dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized from ethyl acetate/ether. Recrystallization from ethyl acetate yields 3.67 g of 4,5-bis(4-methoxyphenyl)-2-(2-acetamidophenylthio)imidazole, mp 183°.

reactant | 4,5-bis(4-methoxyphenyl)-2-(2-nitrophenylthio)imidazole | 4.34 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=CC=C1)[N+](=O)[O-] | C23H19N3O4S
reactant | water | 500 ml | O | H2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | iron | 2.5 g | [Fe] | Fe
product | 4,5-bis(4-methoxyphenyl)-2-(2-acetamidophenylthio)imidazole | 3.67 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=CC=C1)NC(C)=O | C25H23N3O3S
